* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* SKY130 Spice File.
* statistics {
*   mismatch {
*   }
* }
.subckt  sky130_fd_pr__cap_vpp_08p6x07p8_m1m2_noshield c0 c1 b
+ 
.param  mult = 1 presim_flag = 0.0
+ 
+ lvpp = 7.06 wm1 = 0.14 wm2 = 0.14
+ ctot_a = {35.0e-15*cvpp3_cor+0.0283/sqrt(7.84*8.58*2*mult)*35.0e-15*cvpp3_cor*sky130_fd_pr__cap_vpp_08p6x07p8_l1m1m2_noshield_o1__generic_slope}
+ rat_m2 = 0.5767
+ rat_m1 = 0.4233
+ cap_m2 = {rat_m2*ctot_a}
+ cap_m1 = {rat_m1*ctot_a}
+ caps_m1 = {(1.65+presim_flag*0.19)*1e-15*cli2s_vpp}
+ nvia = 47.0
+ nf = 14.0
rm21 c0 a1 r = {2*rm2*lvpp/wm2*(1/3)*(1/nf)}
ccmvpp3 a1 c1  c = {cap_m2}
rvia1 c0 d0 r = {rcvia/nvia}
rvia2 c1 d1 r = {rcvia/nvia}
rm11 d0 b1 r = {2*rm1*lvpp/wm1*(1/3)*(1/nf)}
cm1 b1 d1 c = {cap_m1}
csli1 d0 b c = {caps_m1}
csli2 d1 b c = {caps_m1}
.ends sky130_fd_pr__cap_vpp_08p6x07p8_m1m2_noshield
